US07074934B2
A solution of ethyl γ-chloro-α-oximinoacetoacetate (2.00 g, 10.3 mmol) and thiopropionamide (0.92 g, 10.3 mmol) in dry benzene (15 mL) was heated to reflux. After 4 hours, the reaction mixture was poured onto NaHCO3 (sat. aq., 50 mL), The resulting mixture was extracted with ethyl acetate (2×50 mL), and the combined extracts dried over MgSO4 and evaporated under reduced pressure. Flash chromatography (ethyl acetate:hexane 1:4) then afforded impure ethyl α-oximino-2-ethylthiazole-4-acetate (0.83g). The crude oxime was then dissolved in methanol (25 mL) and formic acid (50% aq., 10 mL) was added. The mixture was cooled to 0° C. and zinc dust (1.00 g, 15.3 mmol) was added portionwise over 30 mins. The reaction mixture was allowed to warm to room temperature, and stirred for 6 hours. The solution was then filtered, basified to pH 9 with solid NaHCO3, and extracted with ethyl acetate (3×80 mL). The combined extracts were then dried and evaporated to afford DL-2-ethylthiazol-4-ylglycine ethyl ester (0.56 g, 2.6 mmol). The ester (560 mg, 2.6 mmol) was then dissolved in tetrahydrofuran (50 mL). Triethylamine (0.4 mL, 3.9 mmol) was added, followed by di-t-butyl dicarbonate (0.57 g, 2.6 mmol). After stirring at room temperature overnight the mixture was concentrated, water (20 mL) was added and the solution extracted with ethyl acetate (2×20 mL). The combined extracts were evaporated to afford N-t-butyloxycarbonyl-D/L-2-ethylthiazol-4-ylglycine ethyl ester (824 mg,) as a golden oil. The oil was dissolved in methanol (25 mL) and aqueous sodium hydroxide (2 M, 5 mL) was added. After stirring at room temperature for 2 hours, the solution was concentrated, water (30 mL) was added, and the solution extracted with ethyl acetate (30 mL). The aqueous layer was then acidified to pH 4 with 2 N HCl, and extracted with ethyl acetate (2×20 mL), The latter extracts were combined and evaporated to afford N-t-butyloxycarbonyl-D/L-2-ethylthiazol-4-ylglycine (450 mg) as a white solid.

reactant | ethyl γ-chloro-α-oximinoacetoacetate | 10.3 mmol, 2.00 g | ClCC(C(C(=O)OCC)=NO)=O | C6H8ClNO4
reactant | thiopropionamide | 10.3 mmol, 0.92 g | C(CC)(=S)N | C3H7NS
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | ethyl α-oximino-2-ethylthiazole-4-acetate | 0.83g | N(O)=C(C(=O)OCC)C=1N=C(SC1)CC | C9H12N2O3S
